datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C1CCC[NH:10]CCCCCCNCC1.CC(C)(Cc1ccccc1)[NH2+:21][H:20]>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.CC(C)(Cc1ccccc1)[NH2:21] 10=20;20,21=21",
"C[C@H](CCC[NH2+:21][H:20])[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.[O-]c1ccc2ccccc2[n+]1[O-:10]>>C[C@H](CCC[NH2:21])[C@H]1CC[C@H]2[C@@H]3CC[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.[O-]c1ccc2ccccc2[n+]1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C#N)cc[n+]1[O:21][H:20].Fc1cccc([NH2:10])c1>>Cc1cc(C#N)cc[n+]1[O-:21].Fc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"Cc1ccc(C[NH:10]C)cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>Cc1ccc(C[NH+:10](C)[H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Brc1ccc[n:10]c1.Clc1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1>>Brc1ccc[n+:10]([H:20])c1.Clc1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1 10=20;20,21=21",
"C[Si](C)(C)[O:21][H:20].[Se-]c1nccc([O-:10])[nH+]1>>C[Si](C)(C)[O-:21].[Se-]c1nccc([O:10][H:20])[nH+]1 10=20;20,21=21",
"C[Si](C)(C)O[Si](C)(C)CCCC(=O)[O-:10].O=C1Oc2cc([O:21][H:20])ccc2C=C1c1nc2ccccc2s1>>C[Si](C)(C)O[Si](C)(C)CCCC(=O)[O:10][H:20].O=C1Oc2cc([O-:21])ccc2C=C1c1nc2ccccc2s1 10=20;20,21=21",
"CCC(=O)c1cc(C(=O)C(C)(C)C)n[n:21]1[H:20].[NH3+]CCCCCCCCC(=O)[O-:10]>>CCC(=O)c1cc(C(=O)C(C)(C)C)n[n-:21]1.[NH3+]CCCCCCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CCC[N:10](CCC)c1ccccc1.CO/C(C)=[O+:21]/[H:20]>>CCC[N+:10](CCC)(c1ccccc1)[H:20].COC(C)=[O:21] 10=20;20,21=21",
"CCCCNCCCCCC[NH:10]CCCC.Cc1ccc(C(N)=[N+:21](O)[H:20])cc1>>CCCCNCCCCCC[NH+:10](CCCC)[H:20].Cc1ccc(C(N)=[N:21]O)cc1 10=20;20,21=21",
"CSc1ncnc2c1cn[n-:10]2.c1ccc([S:21][H:20])cc1>>CSc1ncnc2c1cn[n:10]2[H:20].c1ccc([S-:21])cc1 10=20;20,21=21",
"CNc1c[n:10]ccc1N.Cc1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1>>CNc1c[n+:10]([H:20])ccc1N.Cc1ccc(C(=O)/C=C/C(=O)[O-:21])cc1 10=20;20,21=21",
"CCCCNC(C)=[N+:21](N(C)C)[H:20].O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O-:10]>>CCCCNC(C)=[N:21]N(C)C.O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CN(C)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N:10](C)c1ccccc1.NC(=S)C(=S)[NH:21][H:20]>>C[N+:10](C)(c1ccccc1)[H:20].NC(=S)C(=S)[NH-:21] 10=20;20,21=21",
"NS(=O)(=O)c1cc2c(cc1Cl)N=C[N:21]([H:20])S2(=O)=O.[O-]c1c(Cl)c(Cl)cc(Cl)c1C[N:10]1CCOCC1>>NS(=O)(=O)c1cc2c(cc1Cl)N=C[N-:21]S2(=O)=O.[O-]c1c(Cl)c(Cl)cc(Cl)c1C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C#CC[O:21][H:20].Nc1[nH]c2ccccc2[n:10]1>>C#CC[O-:21].Nc1[nH]c2ccccc2[n+:10]1[H:20] 10=20;20,21=21",
"CC[NH:10]CC.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC[NH+:10](CC)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cn1c[n:10]cc1CC(NC(=O)CC[NH3+])C(=O)[O-].O=S(=O)(Nc1cccc[nH+]1)c1ccc([NH2+:21][H:20])cc1>>Cn1c[n+:10]([H:20])cc1CC(NC(=O)CC[NH3+])C(=O)[O-].O=S(=O)(Nc1cccc[nH+]1)c1ccc([NH2:21])cc1 10=20;20,21=21",
"C=C(C)C(=O)OCC[NH2:10].CN(C)C=[N+:21](c1ccccc1Cl)[H:20]>>C=C(C)C(=O)OCC[NH2+:10][H:20].CN(C)C=[N:21]c1ccccc1Cl 10=20;20,21=21",
"CC(C)(C)[O-:10].CC1=CC=C([CH:21](C(=O)C2=CC=NC=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].CC1=CC=C([CH-:21]C(=O)C2=CC=NC=C2)C=C1 10=20;20,21=21",
"Nc1ccc(B(O)[O:21][H:20])cc1.OCC[N:10]1CC[NH+](CCCN2c3ccccc3Sc3ccc(Cl)cc32)CC1>>Nc1ccc(B(O)[O-:21])cc1.OCC[N+:10]1([H:20])CC[NH+](CCCN2c3ccccc3Sc3ccc(Cl)cc32)CC1 10=20;20,21=21",
"Fc1cccc([NH2+:21][H:20])c1.O=C(CC[NH:10]CCC(=O)c1ccccc1)c1ccccc1>>Fc1cccc([NH2:21])c1.O=C(CC[NH+:10](CCC(=O)c1ccccc1)[H:20])c1ccccc1 10=20;20,21=21",
"O=[N+]([O-])c1cc(Cl)ccc1[NH2:10].O=[N+]([O-])c1ccc([Se](=O)[O:21][H:20])cc1>>O=[N+]([O-])c1cc(Cl)ccc1[NH2+:10][H:20].O=[N+]([O-])c1ccc([Se](=O)[O-:21])cc1 10=20;20,21=21",
"CC[N+:21](CC)(CCNc1nc(C)nc(Nc2ccc(Cl)cc2)n1)[H:20].O=C(C[N:10]1CCCCC1)NCc1ccccc1>>CC[N:21](CC)CCNc1nc(C)nc(Nc2ccc(Cl)cc2)n1.O=C(C[N+:10]1([H:20])CCCCC1)NCc1ccccc1 10=20;20,21=21",
"N#CC(C#N)=N[N-:10]c1ccccc1O.c1ccc(-c2cccc([O:21][H:20])c2)cc1>>N#CC(C#N)=N[N:10](c1ccccc1O)[H:20].c1ccc(-c2cccc([O-:21])c2)cc1 10=20;20,21=21",
"COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n-:10]1.O=Cc1ccc([O:21][H:20])c(O)c1>>COc1cc(C(N)=O)ccc1-c1nc2c(ncn2C)[n:10]1[H:20].O=Cc1ccc([O-:21])c(O)c1 10=20;20,21=21",
"Cc1cc(C)c([O-:10])c([N+](=O)[O-])c1.Nc1c[n+:21]([H:20])cnc1N>>Cc1cc(C)c([O:10][H:20])c([N+](=O)[O-])c1.Nc1c[n:21]cnc1N 10=20;20,21=21",
"CCCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC(Cl)=C1)[H:20]>>CCCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC(Cl)=C1 10=20;20,21=21",
"C[n+]1cccc([O:21][H:20])c1.Fc1ccc([N-:10]C(=S)c2cccc(Br)c2)cc1>>C[n+]1cccc([O-:21])c1.Fc1ccc([N:10](C(=S)c2cccc(Br)c2)[H:20])cc1 10=20;20,21=21",
"Cc1c(C2CCCCC2)cncc1[O:21][H:20].O=C1C=C([O-:10])c2ccccc2O1>>Cc1c(C2CCCCC2)cncc1[O-:21].O=C1C=C([O:10][H:20])c2ccccc2O1 10=20;20,21=21",
"O=C([C@@H]1O[C@H](Oc2ccc(-c3ccccc3)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20].OCC[S-:10]>>O=C([C@@H]1O[C@H](Oc2ccc(-c3ccccc3)cc2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21].OCC[S:10][H:20] 10=20;20,21=21",
"Clc1ccc([O:21][H:20])c(Cl)c1.O=C1[C@H]2C[C@H](C[N:10]3CCCC=C23)[C@@H]2CCCCN12>>Clc1ccc([O-:21])c(Cl)c1.O=C1[C@H]2C[C@H](C[N+:10]3([H:20])CCCC=C23)[C@@H]2CCCCN12 10=20;20,21=21",
